US05482971
A solution of one mole equivalent of m-trifluoromethoxybenzaldehyde in dry tetrahydrofuran is combined with 5 mole equivalents of diiodomethane, 9 mole equivalents of zinc powder, 1 mole equivalent of titanium tetraisopropoxide, and the mixture is stirred at room temperature for 3 hours. The product is extracted from the mixture after removal of solvent in vacuo to give m-trifluoromethoxyphenylethene.

reactant | m-trifluoromethoxybenzaldehyde | FC(OC=1C=C(C=O)C=CC1)(F)F | C8H5F3O2
reactant | diiodomethane | ICI | CH2I2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | zinc | [Zn] | Zn
catalyst | titanium tetraisopropoxide | CC([O-])C.CC([O-])C.CC([O-])C.CC([O-])C.[Ti+4]
product | m-trifluoromethoxyphenylethene | FC(OC=1C=C(C=CC1)C=C)(F)F | C9H7F3O
